US03936439
By a procedure similar to that of Example 4(a), 1 part by weight of 2-cyclohexylaminoinosine is reacted with 5 parts by volume of acetic anhydride to obtain 1.1 parts by weight of 2-cyclohexylamino-2',3',5'-tri-O-acetylinosine as a colorless resinous product.

reactant | 2-cyclohexylaminoinosine | C1(CCCCC1)NC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)O | C16H23N5O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-cyclohexylamino-2',3',5'-tri-O-acetylinosine | C1(CCCCC1)NC=1N=C(C=2N=CN([C@H]3[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](COC(C)=O)O3)C2N1)O | C22H29N5O8
